US07919498B2
A mixture of 2,5-dichloroquinoline-3-carbaldehyde (1.9948 g, 8.8243 mmol), 2-(trifluoromethyl)phenylboronic acid (1.8436 g, 9.7067 mmol), tetrakis(triphenylphosphine)palladium (0.50985 g, 0.44121 mmol), and sodium carbonate anhydrous (4.6763 g, 44.121 mmol) in 88 mL of CH3CN—H2O (3:1) was stirred at 100° C. After 5 hr, the mixture was cooled to room temperature and partitioned between EtOAc (100 mL) and water (100 mL). The organic layer was washed with brine (50 mL×2), dried over MgSO4, filtered, and concentrated under reduced pressure to give a red syrup. The red syrup was purified by silica gel column chromatography on a 80 g of Redi-Sep™ column using 0 to 50% gradient of EtOAc in hexane over 25 min and then 50% isocratic of EtOAc for 30 min as eluent to give 5-chloro-2-(2-(trifluoromethyl)phenyl)quinoline-3-carbaldehyde as a light-yellow solid: 1H NMR (400 MHz, DMSO-d6) δ ppm 10.01 (1 H, s), 9.19 (1H, d, J=1.0 Hz), 8.08-8.14 (1 H, m), 7.97-8.03 (2 H, m), 7.89-7.95 (1 H, m), 7.73-7.84 (2 H, m), 7.55-7.61 (1 H, m); LC-MS (ESI) m/z 336.1 [M+H]+.

reactant | 2,5-dichloroquinoline-3-carbaldehyde | 8.8243 mmol, 1.9948 g | ClC1=NC2=CC=CC(=C2C=C1C=O)Cl | C10H5Cl2NO
reactant | 2-(trifluoromethyl)phenylboronic acid | 9.7067 mmol, 1.8436 g | FC(C1=C(C=CC=C1)B(O)O)(F)F | C7H6BF3O2
reactant | sodium carbonate anhydrous | 44.121 mmol, 4.6763 g | C(=O)(O)O | CH2O3
solvent | CH3CN—H2O | 88 mL | CC#N.O
catalyst | tetrakis(triphenylphosphine)palladium | 0.44121 mmol, 0.50985 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-chloro-2-(2-(trifluoromethyl)phenyl)quinoline-3-carbaldehyde | ClC1=C2C=C(C(=NC2=CC=C1)C1=C(C=CC=C1)C(F)(F)F)C=O | C17H9ClF3NO
